US06221874B1
1,3-Dibutyl-7-(3-nitro-benzenesulfonyl)-3,7-dihydro-purine-2,6-dione
To 404 mg (1.53 mmol) of 1,3-dibutyl-3,7-dihydro-purine-2,6-dione in 15 mL of CH2Cl2 at 23° C. was added 0.40 mL (296 mg, 2.29 mmol) i-Pr2NEt followed by 373 mg (1.68 mmol) of 3-nitrobenzenesulfonyl chloride. After stirring at 23° C. for 19 h, the reaction mixture was poured into 50 mL brine and extracted with 3×50 mL of EtOAc. The combined organics were successively washed with 1×50 mL sat. NaHCO3 solution, 1×50 mL H2O, 1×50 mL brine, dried over MgSO4, filtered and evaporated to an oily yellow solid. Flash chromatography on silica gel, eluting with CH2Cl2/EtOAc (40/1), gave a white solid. Recrystallization from hot hexanes/EtOAc gave 540 mg (1.20 mmol, a 79% yield) of the title compound as a white, crystalline solid. mp: 178-179° C.; 1H NMR (300 MHz, CDCl3); δ 0.88-0.98 (m, 6H), 1.22-1.42 (m, 4H), 1.50-1.61 (m, 2H), 1.63-1.75 (m, 2H), 3.92 (t, J=7.5 Hz, 2H), 4.07 (t, J=7.5 Hz, 2H) 7.86 (t, J=8.1 Hz, 1H), 8.34 (s, 1H), 8.55 (d, J=8.1 Hz, 1H), 8.77 (d, J=8.2 Hz, 1H), 9.01 (brt, 1H); IR (KBr, cm−1): 3142w, 2963m, 2935m, 2876w, 1716s, 1661s, 1538s, 1441m, 1396s, 1181s, 1130m, 761m, 670m; MS (ES) m/z (relative intensity): 450 (M++H, 100).

reactant | 1,3-dibutyl-3,7-dihydro-purine-2,6-dione | 1.53 mmol, 404 mg | C(CCC)N1C(N(C=2N=CNC2C1=O)CCCC)=O | C13H20N4O2
reactant | i-Pr2NEt | 2.29 mmol, 0.40 mL, 296 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-nitrobenzenesulfonyl chloride | 1.68 mmol, 373 mg | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | brine | 50 mL | [Cl-].[Na+].O
product | 1,3-Dibutyl-7-(3-nitro-benzenesulfonyl)-3,7-dihydro-purine-2,6-dione | 79% yield | C(CCC)N1C(N(C=2N=CN(C2C1=O)S(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-])CCCC)=O | C19H23N5O6S
